US05574178
4-Hydroxy-3,5-di-tert-butylanisole (23.6 g) was dissolved in acetic anhydride (150 ml). Following the addition of conc. sulfuric acid (0.5 ml), the mixture was stirred at 70° C. for 2 h. The reaction mixture was concentrated under reduced pressure and a saturated aqueous solution of sodium hydrogen carbonate was added to the concentrate, followed by extraction with ethyl acetate. The extracted layer was dried over anhydrous magnesium acetate and concentrated. The precipitating solid was recrystallized from methanol-water (2:1) to afford 4-acetoxy-3,5-di-tert-butylanisole [24.5 g (yield, 88%)] as a white solid.

reactant | 4-Hydroxy-3,5-di-tert-butylanisole | 23.6 g | OC1=C(C=C(C=C1C(C)(C)C)OC)C(C)(C)C | C15H24O2
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | acetic anhydride | 150 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-acetoxy-3,5-di-tert-butylanisole | 24.5 g, 88% | C(C)(=O)OC1=C(C=C(C=C1C(C)(C)C)OC)C(C)(C)C | C17H26O3
